US05852038
B. Methyl 2-(2-phenylethynyl)isonicotinate (3)
Methyl 2-chloroisonicotinate, 2 (19.08 9, 0.111 mol as 100% pure), phenylacetylene (13.6 g, 0.133 mol), cuprous iodide (1.00 g,5.25 mmol) and triethylamine (30 ml) were mixed together with stirring at room temperature, and to this mixture was added bis(triphenylphosphine) palladium (II) chloride (2.0 g, 2.85 mmol).

reactant | Methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | phenylacetylene | 0.133 mol, 13.6 g | C1(=CC=CC=C1)C#C | C8H6
catalyst | bis(triphenylphosphine) palladium (II) chloride | 2.85 mmol, 2.0 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | Methyl 2-(2-phenylethynyl)isonicotinate | C1(=CC=CC=C1)C#CC=1C=C(C(=O)OC)C=CN1 | C15H11NO2
